US09079866B2
5-[2′-(5-Aminopyrazin-2-yl)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 838 using 5-bromopyrazin-2-amine in Step A and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine in Step B. MS (ESI): mass calcd. for C20H15FN6, 358.13; m/z found, 359.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.50-8.44 (d, J=1.4, 2H), 7.95-7.90 (d, J=1.5, 1H), 7.63-7.55 (m, 2H), 7.52-7.44 (m, 3H), 7.43-7.38 (m, 1H), 7.06-7.03 (m, 1H), 7.03-7.01 (dd, J=6.2, 1.6, 1H).

reactant | 5-bromopyrazin-2-amine | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-[2′-(5-Aminopyrazin-2-yl)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine | NC=1N=CC(=NC1)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C20H15FN6
